US06797718B2
Thionyl chloride (3.14 mL, 43 mmol) was added over a period of 5 minutes to a chilled (0° C.) solution of 4-[(2,3-dimethyl-5-nitro-6-phenoxypyridin-4-yl)amino]butan-1-ol (12.95 g, 39.08 mmol) in dichloromethane (130 mL). The reaction was allowed to warm to ambient temperature and was stirred overnight under a nitrogen atmosphere. The reaction mixture was diluted with dichloromethane (130 mL), washed sequentially with saturated aqueous sodium bicarbonate (2×65 mL), water (80 mL) and brine (100 mL), dried over magnesium sulfate, filtered and then concentrated under reduced pressure to provide 12.57 g of N-(4-chlorobutyl)-2,3-dimethyl-5-nitro-6-phenoxypyridin-4-amine as a yellow solid.

reactant | Thionyl chloride | 43 mmol, 3.14 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-[(2,3-dimethyl-5-nitro-6-phenoxypyridin-4-yl)amino]butan-1-ol | 39.08 mmol, 12.95 g | CC1=NC(=C(C(=C1C)NCCCCO)[N+](=O)[O-])OC1=CC=CC=C1 | C17H21N3O4
solvent | dichloromethane | 130 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 130 mL | ClCCl | CH2Cl2
product | N-(4-chlorobutyl)-2,3-dimethyl-5-nitro-6-phenoxypyridin-4-amine | 12.57 g | ClCCCCNC1=C(C(=NC(=C1[N+](=O)[O-])OC1=CC=CC=C1)C)C | C17H20ClN3O3
